US05574064
Synthesis of 2-(4-chloro-2-methylphenoxy)-1-methylethylamine (Intermediate Compound No. 2)
120 g of ammonium acetate and 9.8 g of sodium cyanoborohydride were added to a solution containing 31 g of (4-chloro-2-methylphenoxy)acetone dissolved in 700 mL of methanol, and the resultant mixture was stirred for 20 hours at room temperature. After the reaction mixture was concentrated under reduced pressure, 180 mL of concentrated hydrochloric acid and 100 mL of water were added to the residue. The whole mixture was stirred for 1 hour, and then extracted with 300 mL of diethyl ether. The water layer was alkalifled using a 5% aqueous solution of sodium hydroxide, and then extracted with 500 mL of ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. A fraction possessing a low boiling point was removed from the obtained oily products to afford 25 g (yield 81%) of the desired product. Refractive index: 1.5360.

reactant | ammonium acetate | 120 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 9.8 g | C(#N)[BH3-].[Na+]
reactant | (4-chloro-2-methylphenoxy)acetone | 31 g | ClC1=CC(=C(OCC(C)=O)C=C1)C | C10H11ClO2
solvent | methanol | 700 mL | CO | CH4O
product | 2-(4-chloro-2-methylphenoxy)-1-methylethylamine | 25 g, yield 81% | ClC1=CC(=C(OCC(C)N)C=C1)C | C10H14ClNO
